US05101411
1 Mol of glutaric acid is reacted with 2 mols of aminophenol to produce 1,3-bis-(bezoxazole-2-yl)-propane.

reactant | glutaric acid | 1 Mol | C(CCCC(=O)O)(=O)O | C5H8O4
reactant | aminophenol | 2 mols | NC1=C(C=CC=C1)O | C6H7NO
product | 1,3-bis-(bezoxazole-2-yl)-propane | O1C(=NC2=C1C=CC=C2)CCCC=2OC1=C(N2)C=CC=C1 | C17H14N2O2
